US05256679
To a solution of N-(2-chloro-5-thiazolylmethyl)-N-methoxycarbonyl-S-methyl-N'-nitroisothiourea (500 mg) in MeOH (5 ml) was added 40% methylamine-methanol solution (120 mg) dropwise below -10° C. and the mixture was stirred at the same temperature. Precipitated crystals were collected by filtration and dried to afford 230 mg of 1-(2-chloro-5-thiazolylmethyl)-1-methoxycarbonyl-3-methyl-2-nitroguanidine (Compound No. 19) as a white crystal. The filtrate was concentrated to leave the residue to which MeOH (3 ml) was added. The product (Compound No. 19, 140 mg) was obtained after drying. The properties, i.e. m.p., NMR and IR, of the product are identical with those of the compound prepared according to Example 3.

reactant | N-(2-chloro-5-thiazolylmethyl)-N-methoxycarbonyl-S-methyl-N'-nitroisothiourea | 500 mg | ClC=1SC(=CN1)CN(C(SC)=N[N+](=O)[O-])C(=O)OC | C8H9ClN4O4S2
reactant | methylamine methanol | 120 mg | CN.CO
solvent | MeOH | 5 ml | CO | CH4O
product | 1-(2-chloro-5-thiazolylmethyl)-1-methoxycarbonyl-3-methyl-2-nitroguanidine | 230 mg | ClC=1SC(=CN1)CN(C(=N[N+](=O)[O-])NC)C(=O)OC | C8H10ClN5O4S
